US08802728B2
Add H2O (18 mg, 1 mmol) and TMSCl (75 mg, 0.69 mmol) to a solution of 2,2-dimethyl-propionic acid 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenyl ester (197 mg, 0.58 mmol) in 2-butanone (70 mL). Stir the reaction mixture at ambient temperature for 2 hours. Evaporate the mixture under vacuum to afford 2,2-dimethyl-propionic acid 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenyl ester hydrochloride as white solid (219 mg, Yield: 100%). 1H NMR (400 MHz, Methanol-d4) δ 7.38-7.42 (t, J=16.4, 1H), 7.13-7.15 (d, J1=7.2, J2=0.8, 1H), 6.96-6.98 (m, 2H), 6.21-6.23 (d, J=6.8, 1H), 3.68-3.71 (d, J=12.0, 1H), 3.16-3.23 (t, J=25.6, 1H), 2.99-3.00 (m, 1H), 2.88-2.92 (d, J=14.8, 6H), 2.65 (m, 1H), 2.60 (m, 1H), 1.95-1.98 (m, 1H), 1.82-1.86 (m, 5H), 1.37 (s, 9H).

reactant | H2O | 1 mmol, 18 mg | O | H2O
reactant | TMSCl | 0.69 mmol, 75 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2,2-dimethyl-propionic acid 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenyl ester | 0.58 mmol, 197 mg | CN(C)CC1C(=CC2CCC1C2)C=2C=C(C=CC2)OC(C(C)(C)C)=O | C22H31NO2
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
product | 2,2-dimethyl-propionic acid 3-(4-dimethylaminomethyl-bicyclo[3.2.1]oct-2-en-3-yl)-phenyl ester hydrochloride | 219 mg, Yield: 100% | Cl.CN(C)CC1C(=CC2CCC1C2)C=2C=C(C=CC2)OC(C(C)(C)C)=O | InChI=1S/C22H31NO2.ClH/c1-22(2,3)21(24)25-18-8-6-7-16(13-18)19-12-15-9-10-17(11-15)20(19)14-23(4)5;/h6-8,12-13,15,17,20H,9-11,14H2,1-5H3;1H
